US04053601
A mixture of 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5cyanophenyl]-4,5-dihydro-3(2H)-pyridazinone and chloramil was heated under reflux in n-butanol to give 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5-cyanophenyl]-3(2H)-pyridazinone.

reactant | 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5cyanophenyl]-4,5-dihydro-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)C#N)C=1CCC(NN1)=O)O | C18H24N4O3
solvent | n-butanol | C(CCC)O | C4H10O
product | 6-[2-(3-t-butylamino-2-hydroxypropoxy)-5-cyanophenyl]-3(2H)-pyridazinone | C(C)(C)(C)NCC(COC1=C(C=C(C=C1)C#N)C=1C=CC(NN1)=O)O | C18H22N4O3
